US08809539B2
To a stirred solution of 1-{4-[5-(2-fluorobiphenyl-4-yl)-[1,2,4]oxadiazol-3-yl]benzyl}piperidine-4,4-dicarboxylic acid benzyl ester (0.8 g, 0.0014 mol) in dichloromethane (20 mL), oxalyl chloride (0.343 g, 0.0027 mol) is added slowly at 0-50 C. A few drops of N,N-dimethyl formamide is added into it. The reaction mixture is stirred at room temperature for 1.5 hrs. It is then concentrated under reduced pressure to get 4-chlorocarbonyl-1-{4-[5-(2-fluorobiphenyl-4-yl)-[1,2,4]oxadiazol-3-yl]benzyl}piperidine-4-carboxylic acid benzyl ester.

reactant | 1-{4-[5-(2-fluorobiphenyl-4-yl)-[1,2,4]oxadiazol-3-yl]benzyl}piperidine-4,4-dicarboxylic acid benzyl ester | 0.0014 mol, 0.8 g | C(C1=CC=CC=C1)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=CC=CC=C1)F)C(=O)O | C35H30FN3O5
reactant | oxalyl chloride | 0.0027 mol, 0.343 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethyl formamide | A few drops | CN(C=O)C | C3H7NO
product | 4-chlorocarbonyl-1-{4-[5-(2-fluorobiphenyl-4-yl)-[1,2,4]oxadiazol-3-yl]benzyl}piperidine-4-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=CC=CC=C1)F)C(=O)Cl | C35H29ClFN3O4
